US08119692B2
Methyl 4-(4-fluorophenyl)-4-iodobutanoate (Intermediate A6)
To a solution of triphenylphosphine (419 mg, 1.6 mmol) in anhydrous 20 mL DCM was added imidazole (224 mg, 3.3 mmol) and iodine (406 mg, 1.6 mmol) at 0° C. The reaction mixture was stirred for 30 min at 0° C. and then methyl 4-(4-fluorophenyl)-4-hydroxybutanoate (212 mg, 1 mmol) in 10 mL DCM was added to the mixture. The resulting mixture was stirred at 0° C. for 2 h and the temperature was slowly raised to room temp over a period of 3 h. Evaporation of solvent left the crude product as an oil from which the product was isolated by Flash column chromatography eluting with 0% to 10% ethyl acetate/hexane to give the title compound, 161 mg, as a light yellow oil.

reactant | triphenylphosphine | 1.6 mmol, 419 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 3.3 mmol, 224 mg | N1C=NC=C1 | C3H4N2
reactant | iodine | 1.6 mmol, 406 mg | II | I2
reactant | methyl 4-(4-fluorophenyl)-4-hydroxybutanoate | 1 mmol, 212 mg | FC1=CC=C(C=C1)C(CCC(=O)OC)O | C11H13FO3
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | Methyl 4-(4-fluorophenyl)-4-iodobutanoate | FC1=CC=C(C=C1)C(CCC(=O)OC)I | C11H12FIO2
